US05917041
(1S,4R)-4-[2-Amino-6-(cyclopropylamino)-9H-purin-9-yl]-2-cyclopentene-1-methanol (IXa)
(1S,4R)-4-(2-Amino-6-chloro-9-H-purin-9-yl)-2-cyclopentene-1-methanol (U.S. Pat. No. 5,206,435) or the hydrochloride salt thereof (Example 8) was refluxed in ethanol with 10 molar equivalents of cyclopropylamine for 2 hours. The resulting solution was cooled to ambient temperature and 1 N sodium hydroxide (1 or 2 molar equivalents, depending on whether the starting material was VIIa or the hydrochloride salt of VIIa) was added. The volatiles were evaporated in vacuo. (1S,4R)-4-[2-Amino-6-(cyclopropylamino)-9H-purin-9-yl]-2-cyclopentene-1-methanol (IXa) was washed from a silica gel pad eluted with 5% methanol-chloroform or 10% methanol-ethyl acetate and isolated as a white solid foam (80%); spectra identical to those of the product of Example 9.

reactant | (1S,4R)-4-(2-Amino-6-chloro-9-H-purin-9-yl)-2-cyclopentene-1-methanol | NC1=NC(=C2N=CN(C2=N1)[C@H]1C=C[C@H](C1)CO)Cl | C11H12ClN5O
reactant | cyclopropylamine | C1(CC1)N | C3H7N
reactant | sodium hydroxide | 1 N | [OH-].[Na+]
solvent | ethanol | C(C)O | C2H6O
product | (1S,4R)-4-[2-Amino-6-(cyclopropylamino)-9H-purin-9-yl]-2-cyclopentene-1-methanol | 80% | NC1=NC(=C2N=CN(C2=N1)[C@H]1C=C[C@H](C1)CO)NC1CC1 | C14H18N6O
